US09357776B2
Synthesis of N-[1-((6-Chloropyridin-3-yl)methyl)pyridin-2(1H)-ylidene]-2,2,2-trifluoroacetamide
In 10 ml of toluene, 1.0 g (10.6 mmol) of 2-aminopyridine was dissolved. After the solution was cooled to 5° C., 1.18 ml (15.9 mmol) of trifluoroacetic acid and 0.99 ml (10.6 mmol) of phosphorus oxychloride were added thereto, followed by stirring at room temperature for 6.5 hours. To the reaction liquid, 5.0 ml of dimethylformamide, 5.87 g (42.5 mmol) of potassium carbonate powder, and 1.72 g (10.6 mmol) of 2-chloro-5-chloromethylpyridine were added, and distillation was conducted under reduced pressure (60 to 35 hPa) at 50 to 60° C. Two and a half hours later, the reaction liquid was added to 100 ml of water, and the crystals were filtered, and washed with 30 ml of water and 15 ml of toluene. The obtained crystals were dried under reduced pressure at 60° C. Thus, 2.09 g of the target compound N-[1-((6-chloropyridin-3-yl)methyl)pyridin-2(1H)-ylidene]-2,2,2-trifluoroacetamide was obtained (62.3%).

reactant | 2-aminopyridine | 10.6 mmol, 1.0 g | NC1=NC=CC=C1 | C5H6N2
reactant | trifluoroacetic acid | 15.9 mmol, 1.18 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | phosphorus oxychloride | 10.6 mmol, 0.99 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | potassium carbonate | 42.5 mmol, 5.87 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-5-chloromethylpyridine | 10.6 mmol, 1.72 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 ml | O | H2O
solvent | dimethylformamide | 5.0 ml | CN(C=O)C | C3H7NO
product | N-[1-((6-Chloropyridin-3-yl)methyl)pyridin-2(1H)-ylidene]-2,2,2-trifluoroacetamide | 2.09 g | ClC1=CC=C(C=N1)CN1C(C=CC=C1)=NC(C(F)(F)F)=O | C13H9ClF3N3O
